US05321165
The protected ethynyl benzaldehyde was prepared as follows. In a 50 ml. two-necked round bottom flask equipped with a magnetic stirring bar, argon inlet, and a reflux condenser was placed 1.62 g. (0.0087 mol.) of bromobenzaldehyde and 28.3 ml. dry pyridine. The pyridine had been dried over sodium hydroxide pellets and distilled. The flask was purged with argon while stirring and 1.58 g. (0.0084 mol.) of the copper acetylide salt was added during the argon flush. Upon addition of the copper acetylide salt, the reaction mixture became reddish amber in color. The contents were heated in a wax bath at 127.8° C. for eighteen hours. Caution was taken to prevent particles from burning on the sides of the flask by keeping the wax bath below the reaction mixture's volume line. As the reaction progressed, the color of solution turned from a reddish to brownish amber and a darkly colored precipitate had formed. Upon completion of the reaction the solution was cooled and quenched with 85 ml. of deionized water. The precipitate was isolated by suction filtration and washed with approximately 70 ml. of deionized water. Immediately after the wash solution hit the floor of the receiving flask, a tan in color precipitate came out of solution. Upon further addition of wash solution, the precipitate became lighter in color and brown oil droplets lined the bottom of the erlenmeyer flask. What remained on the filter paper was a brownish black precipitate which was subsequently washed with 120 ml. of ether. The ethereal wash solution became tan in color. The combined ethereal and aqueous wash solutions were transferred to a 1000 ml. separatory funnel for separation. After mixing of the ethereal layer and the aqueous layer, the ether layer became darker in color while the aqueous layer took on a light yellowish green color. Two additional extractions with ether, 40 ml. each, were done on the aqueous layer. The combined ether extracts were washed successively with 50 ml. each of 0.1 N. hydrochloric acid, 5% sodium bicarbonate, and deionized water, and dried over magnesium sulfate. The dried ethereal solution was placed in a rotary evaporate at 30° C.; however, not all the solvent evaporated. What remained in the round bottom flask was a brownish amber liquid with an odor characteristic of pyridine. This was put under vacuum (3 mm.) at 75° C. Only a few milliliters of solvent were pulled over; the product remained in solution.

reactant | bromobenzaldehyde | 0.0087 mol | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | copper acetylide salt | 0.0084 mol | [C-]#[C-].[Cu+2]
product | ethynyl benzaldehyde | C(#C)C1=C(C=O)C=CC=C1 | C9H6O
